Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ipratropium / albuterol
 
Attending: ___.
 
Chief Complaint:
uterine artery embolization
 
Major Surgical or Invasive Procedure:
___ uterine artery embolization 
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
===========================
___ year old female with a uterine fibroid and chronic 
menorrhagia
who is admitted for pain control after uterine artery
embolization. 

Patient has had severe menorrhagia for ___ years. She notes
occasional  episodes of dizziness. She had an IUD placed in
___ without alleviation of her symptoms. Previous US
(___) demonstrated a 12 cm anterior exophytic heterogenous
mass with biopsy showing chronic endometritis without 
malignancy.
MRI (___) showed a single dominant intramural fibroid
measuring 11.4 x 10.7 x 11.6 cm with superimposed adenomyosis.

Patient underwent bilateral uterine artery embolization on ___rtery access with no complications.

On arrival to the floor, patient endorses nausea. She is having
occasional dry heaves, but has not vomited. She denies abdominal
pain, but does have cramping. 

REVIEW OF SYSTEMS:
==================
Complete ROS obtained and is otherwise negative.

 
Past Medical History:
MEDICAL HISTORY:
================
- Morbid obesity 
- Hypertension 
- S/p bilateral tubal ligation  
 
Social History:
___
Family History:
Mother           CORONARY ARTERY                           
                 DISEASE                                   
                 HYPERTENSION                              
                 HYPERCHOLESTEROLEMIA                      

Father           DIABETES MELLITUS                         

Daughter         KIDNEY REFLUX  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 97.8F, 174/90, HR 56, RR 18  SpO2 93% RA  
GENERAL: Alert and interactive. Mild distress ___ nausea. 
HEENT: EOMI. Sclera anicteric and without injection. MMM.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Obese, normal bowels sounds, non distended. Mild RUQ
tenderness to deep palpation.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: No rash.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. No gross
focal deficits. 

DISCHARGE ISSION PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 900)
    Temp: 98.5 (Tm 98.5), BP: 136/61 (136-174/61-90), HR: 54
(52-56), RR: 20 (___), O2 sat: 97% (93-97), O2 delivery: Ra  
GENERAL: Alert and interactive. NAD, resting comfortably in bed
HEENT: EOMI. PERRLA, Sclera anicteric and without injection. 
MMM.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Obese, normal bowels sounds, non distended. Mild LLQ
tenderness to deep palpation.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: No rash.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. No gross
focal deficits. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:00AM BLOOD WBC-5.9 RBC-5.74* Hgb-12.0 Hct-40.6 
MCV-71* MCH-20.9* MCHC-29.6* RDW-19.1* RDWSD-46.6* Plt ___

DISCHARGE LABS:
================

___ 06:04AM BLOOD WBC-9.5 RBC-5.27* Hgb-10.9* Hct-38.4 
MCV-73* MCH-20.7* MCHC-28.4* RDW-19.0* RDWSD-48.6* Plt ___
___ 06:04AM BLOOD Glucose-106* UreaN-15 Creat-0.8 Na-140 
K-5.3 Cl-106 HCO3-24 AnGap-10
___ 06:04AM BLOOD ALT-10 AST-9 LD(LDH)-185 AlkPhos-84 
TotBili-0.5

RADIOLOGY:
==========

___ Uterine artery embo 
1. Left uterine artery supplying a fibroid uterus.  No
arteriovenous shunting, stenosis, vesical, vaginal or ovarian 
branches noted. 
2. Right uterine artery supplying the fibroid uterus.  No
arteriovenous shunting, stenosis, vesical, vaginal or ovarian 
branches noted. 
3. No evidence of ovarian arterial supply to the fibroids. 
4. Post-procedure fibroid staining and near stasis confirming
successful imaging end point. 
  
IMPRESSION:  
  
Left radial artery access bilateral uterine artery particle
embolization to near stasis. 
 
Brief Hospital Course:
___ year old female with a uterine fibroid and chronic 
menorrhagia who is admitted for pain control after uterine 
artery embolization. 

# Uterine fibroids s/p embolization 
** Patient noted no control w/ oxycodone yesterday. Reluctant to 
come off PCA on the first morning, but PCA discontinued. Trial 
of oxycodone + Zofran for nausea with adequate pain control. 
Patient tolerated PO, was able to walk without difficulty around 
the ward and voided prior to discharge. 

Per ___: On Discharge
--> PO Naproxen 500mg twice daily for 7 days
--> PO Oxycodone, ___ mg Q4-6H X 72 hours, then PRN pain for 48
hours, then stop. (Maximum of 12 tabs daily, for 5 days)
--> PO Docusate Sodium 100mg BID for 7 days 
--> PO Senna 17.2 mg (2 8.6 mg tablets): QHS for 7 days
--> PO Miralax 17 grams daily:PRN constipation 
--> PO Ondansetron ___ mg Q8H PRN nausea

- ___ follow up: 
--> 1) 3 months pelvic MRI with and without contrast 
--> 2) 3 months ___ clinic visit.

# Hypertension 
- Continued home amlodipine 10 mg daily 

TRANSITIONAL ISSUES:
=====================
[] Patient should follow up with MRI and ___ in 3 months time
[] continue titration of BP meds as outpatient, she had some 
hypertension while inpatient, but in setting of pain, 
medications were not modified

Contact: Husband ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Naproxen 500 mg PO BID  
4.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate Duration: 3 Days  
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg 1 tablet by mouth twice a day Disp #*14 
Tablet Refills:*0 
8.  amLODIPine 10 mg PO DAILY  
9. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until seen by your primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- uterine artery embolization

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for a planned uterine artery 
embolization. This procedure went well!

By the time you left the hospital you were able to walk without 
difficulty, had voided, and were tolerating a diet. Your pain 
was controlled on oxycodone. 

When you leave the hospital the interventional radiologists have 
asked that you wean off the pain medication. You should take 
Naproxen (aleve) 500 mg twice a day for 7 days. We are giving 
you oxycodone to take as well. You can take ___ tablets every 
___ hours for the first 3 days (including today, day of 
discharge). After 3 days your pain should largely be controlled, 
but you can take an additional pill as needed for the following 
2 days (no more often than every ___ hrs). Do not take more than 
12 pills. Do not take any oxycodone after the first 5 days after 
the procedure. While you are on oxycodone it is easy to get 
constipated which can cause severe pain. We are discharging you 
on medications to help you have a bowel movement. The goal is 1 
soft stool a day. 

Please understand opioids, like oxycodone, put you at risk of 
breathing difficulty and are dangerous. Please do not take more 
than prescribed or for longer than prescribed. 

It was a pleasure taking care of you! 

Your ___ care team

 
Followup Instructions:
___